US04628057
(3R)-9-Benzyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
(3R)-9-Benzyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (1.225 g) is dissolved in dimethylsulfoxide (20 ml) and thereto are added 10N NaOH (0.8 ml) and carbon disulfide (0.24 ml). The mixture is stirred at room temperature for 10 minutes and thereto is added dropwise methyl iodide (0.29 ml). The mixture is stirred at room temperature for 20 minutes and thereto is added water (100 ml). The mixture is acidified with 10% HCl and extracted with ethyl acetate. The extract is washed with water, dried and distilled to remove the solvent. The residue is purified by silica gel column chromatography (solvent, chloroform:methanol:acetic acid=90:5:1) to give the title compound (0.89 g, 52%) as pale yellow powder.

reactant | (3R)-9-Benzyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.225 g | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C[C@@H](NCC12)C(=O)O | C19H18N2O2
reactant | NaOH | 10N, 0.8 ml | [OH-].[Na+]
reactant | methyl iodide | 0.29 ml | CI | CH3I
reactant | HCl | Cl | ClH
reactant | carbon disulfide | 0.24 ml | C(=S)=S | CS2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | (3R)-9-Benzyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 0.89 g, 52% | C(C1=CC=CC=C1)N1C2=CC=CC=C2C=2C[C@@H](N(CC12)C(=S)SC)C(=O)O | C21H20N2O2S2
